US08686005B2
Thus, 2-chloro-3-cyanopyridine (A18) provided 2-methoxy-3-cyanopyridine (A19) upon treatment with sodium methoxide in methanol. Lithiation of the 2-methoxy-3-cyanopyridine (A19) with LDA gave the intermediate carbanion derivative 4-lithio-2-methoxy-3-cyanopyridine (A21), which upon treatment with hexachloroethane provided the 4-chloro-2-methoxy-3-cyanopyridine (A20). Analogously, reaction with bromine provides the 4-bromo-2-methoxy-3-cyanopyridine (A22) and reaction with iodine provides the 4-iodo-2-methoxy-3-cyanopyridine (A23). All 4-halo-2-methoxy-3-cyanopyridines are highly valuable intermediates, especially for the synthesis of kinase inhibitors. Reduction of the 4-halo-2-methoxy-3-cyanopyridines, for example with DIBAL (diisobutylaluminum hydride) in solvents such as toluene, dichloromethane, or tetrahydrofuran at temperatures ranging from −80° C. to about 80° C., preferably at 20° C. provides after standard workup the 4-halo-2-methoxypyridine-3-carboxaldehydes. The 4-halo-2-methoxypyridine-3-carboxaldehydes are highly valuable synthetic intermediates. 4-chloro-2-methoxy-3-pyridinecarboxaldehyde (A9) was prepared in this manner.

reactant | 4-chloro-2-methoxy-3-cyanopyridine | ClC1=C(C(=NC=C1)OC)C#N | C7H5ClN2O
reactant | bromine | BrBr | Br2
reactant | 4-bromo-2-methoxy-3-cyanopyridine | BrC1=C(C(=NC=C1)OC)C#N | C7H5BrN2O
reactant | iodine | II | I2
product | 4-iodo-2-methoxy-3-cyanopyridine | IC1=C(C(=NC=C1)OC)C#N | C7H5IN2O
